US08859574B2
A mixture of (E)-4-amino-4-ethoxy-1,1,1-trifluorobut-3-en-2-one (5.00 g, 27 mmol) and hydrazine (1.05 g) in anhydrous EtOH (20 mL) was stirred at 80° C. in a sealed vial overnight. The reaction was quenched with water (50 mL), and extracted with EtOAc (100 ml, then 2×50 mL). The EtOAc layers were combined and sequentially washed with water (25 mL), brine (25 mL), dried over Na2SO4 and evaporated to give a light brown oily residue. The crude product was purified by silica chromatography (30-100% EtOAc in hexanes gradient) to give 5-(trifluoromethyl)-1H-pyrazol-3-amine as an off white solid; ESMS m/z 152.0 (M+H+).

reactant | (E)-4-amino-4-ethoxy-1,1,1-trifluorobut-3-en-2-one | 27 mmol, 5.00 g | N\C(=C/C(C(F)(F)F)=O)\OCC | C6H8F3NO2
reactant | hydrazine | 1.05 g | NN | H4N2
solvent | EtOH | 20 mL | CCO | C2H6O
product | 5-(trifluoromethyl)-1H-pyrazol-3-amine | FC(C1=CC(=NN1)N)(F)F | C4H4F3N3
